US04472316
5.36 g of 3-(4-phenoxybenzoyl)acrylic acid were dissolved in 30 ml of dimethylformamide, and then 1.36 g of potassium carbonate and 3.08 g of diethyl sulfate were added. The mixture was stirred at room temperature for 3 hours. Diethyl ether was added to the reaction mixture, which was then washed, in turn, with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and dried over magnesium sulfate. The diethyl ether was removed by evaporation under reduced pressure. The residue was purified first by silica gel column chromatography, eluted with a mixture of hexane and diethyl ether, then by recrystallization from hexane to give 4.36 g of ethyl 3-(4-phenoxybenzoyl)acrylate.

reactant | 3-(4-phenoxybenzoyl)acrylic acid | 5.36 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)C=CC(=O)O)C=C1 | C16H12O4
reactant | potassium carbonate | 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | 3.08 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(4-phenoxybenzoyl)acrylate | 4.36 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)C=CC(=O)OCC)C=C1 | C18H16O4
